US05616579
3-Amino-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]thiophene-2-carboxamide
Following a procedure similar to that described in Example 13, but using 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine and 3-amino-2-thiophenecarboxylic acid as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as colorless needles, melting at 138°-140° C., in a 40% yield.

reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
reactant | 3-amino-2-thiophenecarboxylic acid | NC1=C(SC=C1)C(=O)O | C5H5NO2S
product | 3-Amino-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]thiophene-2-carboxamide | 40% yield | NC1=C(SC=C1)C(=O)NC\C=C/COC1=NC=CC(=C1)CN1CCCCC1 | C20H26N4O2S
